US03987047
3-Acetyl-1,2,4,5-tetrahydro-11-phenyl-3H-azepino[4,5-b]quinoline hydrochloride was prepared from 1,2,4,5-tetrahydro-11-phenyl-3H-azepino[4,5-b]quinoline and acetyl chloride analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-11-phenyl-3H-azepino[4,5-b]quinoline | C1(=CC=CC=C1)C1=C2C(=NC=3C=CC=CC13)CCNCC2 | C19H18N2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 3-Acetyl-1,2,4,5-tetrahydro-11-phenyl-3H-azepino[4,5-b]quinoline hydrochloride | Yield: 90% | Cl.C(C)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C1=CC=CC=C1 | InChI=1S/C21H20N2O.ClH/c1-15(24)23-13-11-18-20(12-14-23)22-19-10-6-5-9-17(19)21(18)16-7-3-2-4-8-16;/h2-10H,11-14H2,1H3;1H
